US07632833B2
3-Allyl-8-chloro-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide (4-2; a racemic mixture, 0.26 g, 0.64 mmol) was dissolved in anhydrous THF (5 mL) and treated with a 0.5M solution of 9-BBN (5.1 mL, 2.6 mmol) and stirred at 50° C. for 2 h. The reaction was cooled to 0° C. and treated with 3N NaOH (1 mL) and 30% H2O2 in water (1 mL), and stirred an additional hour. Upon completion, the reaction was quenched with the addition of brine (5 mL), and extracted with EtOAc (3×10 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. The crude residue was subjected to flash column chromatography (ISCO Redisep 40 g SiO2 column, 0-100% EtOAc/hexanes gradient) to provide pure 8-chloro-3-(3-hydroxypropyl)-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide (4-3; a racemic mixture): 1H NMR (300 MHz, CDCl3) δ 7.42 (d, J=2.1 Hz 1H), 7.43-7.24 (m, 5H), 6.83 (d, J=8.5, 2.1 Hz, H), 6.77 (d, J=12.5 Hz, 1H), 3.99 (dd, J=10.5, 3.5 Hz, 1H), 3.91 (s, 3H), 3.76 (br s, 1H), 3.56 (dd, J=11.0, 3.7 Hz, 1H), 3.32 (s, 3H), 2.93 (t, J=10.7 Hz, 1H), 2.59 (dt, J=12.2, 4.9 Hz, 1H), 2.42 (dt, J=12.2, 4.6 Hz, 1H), 1.90-1.60 (m, 4H); MS (M+H+, C22H24ClN3O4) 430.4 found 430.9 required.

reactant | 3-Allyl-8-chloro-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide | C(C=C)C1(C(=NN2C1COC1=C2C=C(C=C1)Cl)C(=O)N(C)OC)C1=CC=CC=C1 | C22H22ClN3O3
reactant | 9-BBN | 2.6 mmol, 5.1 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 3N, 1 mL | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 8-chloro-3-(3-hydroxypropyl)-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide | ClC=1C=CC2=C(N3C(CO2)C(C(=N3)C(=O)N(C)OC)(C3=CC=CC=C3)CCCO)C1 | C22H24ClN3O4
